US08609669B2
Ethyl 2-(cyclopentylthio)acetate
Solid K2CO3 (9.01 g, 65.2 mmol) was added to a stirring solution of ethyl bromoacetate (5.16 mL, 46.6 mmol) and cyclopentanethiol (4.97 mL, 46.6 mmol) in DMF (25 mL). The resulting suspension was warmed at 65° C. for 4 hours. The reaction mixture was cooled to room temperature, diluted with water (100 mL) and extracted with hexanes (3×50 mL). The combined extract was washed with saturated brine (30 mL) and concentrated under vacuum to provide the title compound. 1H NMR (300 MHz, CDCl3) δ ppm 1.29 (t, J=7.1 Hz, 3H), 1.43-1.65 (m, 4H), 1.66-1.81 (m, 2H), 1.93-2.10 (m, 2H), 3.13-3.30 (m, 1H), 3.25 (s, 2H), 4.19 (q, J=7.1 Hz, 2H).

reactant | K2CO3 | 65.2 mmol, 9.01 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl bromoacetate | 46.6 mmol, 5.16 mL | BrCC(=O)OCC | C4H7BrO2
reactant | cyclopentanethiol | 46.6 mmol, 4.97 mL | C1(CCCC1)S | C5H10S
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | Ethyl 2-(cyclopentylthio)acetate | C1(CCCC1)SCC(=O)OCC | C9H16O2S
